US05270312
Step (a): Preparation of 4-[(2-pyridyl)-1-piperazinyl]-1-butyne
A solution of 3-butynyl tosylate (25.0 g, 0.11 mol), 1-(2-pyridinyl)piperazine (12.1 g, 0.074 mol), and sodium bicarbonate (6.9 g, 0.082 mol) in 200 mL of dimethylformamide is heated at 80° C. for 18 hours. The solvent is removed under reduced pressure, and the residue is partitioned between 200 mL of dichloromethane and 200 mL of water. The aqueous layer is extracted with 100 mL of dichloromethane and the combined organic layers are dried (sodium sulfate), and the solvent is removed in vacuo. The residue is chromatographed (silica gel, 25% ethyl acetate/75% hexane) to give the title compound as a white solid; mp 57°-58° C.

reactant | 3-butynyl tosylate | 0.11 mol, 25.0 g | S(=O)(=O)(OCCC#C)C1=CC=C(C)C=C1 | C11H12O3S
reactant | 1-(2-pyridinyl)piperazine | 0.074 mol, 12.1 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | sodium bicarbonate | 0.082 mol, 6.9 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-[(2-pyridyl)-1-piperazinyl]-1-butyne | N1=C(C=CC=C1)C1N(CCNC1)CCC#C | C13H17N3
